US09340556B2
A mixture of ethyl 1-ethyl-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate (50 g, 167 mmol), KOH (94 g, 1671 mmol) and 4-methoxybenzyl alcohol (208 ml, 1671 mmol) was heated at 75° C. for 4 hours. LCMS showed completion of reaction. The solution was adjusted to pH 2 and was extracted with ethyl acetate. The organic layer was washed with water, dried with Na2SO4, filtered, and concentrated in vacuo. The residue was triturated with ethyl acetate, whereupon the crude product precipitated out as a solid substance. The precipitate was collected by filtration and washed with EA to afford 1-ethyl-6-fluoro-7,8-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (44 g, 87 mmol, 51.9% yield) as a yellow solid. LCMS: (M+H)+: 508.3.

reactant | ethyl 1-ethyl-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 167 mmol, 50 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C14H12F3NO3
reactant | KOH | 1671 mmol, 94 g | [OH-].[K+]
reactant | 4-methoxybenzyl alcohol | 1671 mmol, 208 ml | COC1=CC=C(CO)C=C1 | C8H10O2
product | 1-ethyl-6-fluoro-7,8-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 87 mmol, 44 g, 51.9% yield | C(C)N1C=C(C(C2=CC(=C(C(=C12)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)F)=O)C(=O)O | C28H26FNO7
